US08609699B2
Preparation of 6-(2,2,2-trifluoro-1-hydroxyethyl)pyridin-3-ol
Potassium carbonate (4.66 g, 36.3 mmol) was added to the mixture of pyridin-3-ol (2.00 g, 21.0 mmol) and 1-ethoxy-2,2,2-trifluoroethanol (3.30 g, 23.1 mmol), and the mixture was stirred for 4 hours at 100° C. under nitrogen atmosphere. This reaction solution was cooled to room temperature, followed by adding water and ethyl acetate to the reaction solution, washing the organic layer with a saturated saline solution, drying the layer with anhydrous sodium sulfate, and thereafter concentration under reduced pressure. The obtained residue was purified by silica gel column chromatography (Purif-Pack SI200, hexane:ethyl acetate:=40:60) to obtain the title compound (780 mg, yield: 19%) as a white amorphous.

reactant | Potassium carbonate | 36.3 mmol, 4.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyridin-3-ol | 21.0 mmol, 2.00 g | N1=CC(=CC=C1)O | C5H5NO
reactant | 1-ethoxy-2,2,2-trifluoroethanol | 23.1 mmol, 3.30 g | C(C)OC(C(F)(F)F)O | C4H7F3O2
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(2,2,2-trifluoro-1-hydroxyethyl)pyridin-3-ol | 780 mg, yield: 19% | FC(C(O)C1=CC=C(C=N1)O)(F)F | C7H6F3NO2
